US06180622B2
(1R,5S,6S)-2-[(3S,5S)-5-[2(E)-(6-(Carbamoylethyl)imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylic acid iodide
Sodium iodide (70 mg) and 71 mg of propionamide bromide are added to a solution of 55 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(E)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 38-a) in 1 ml of acetone and 0.5 ml of DMF, and the mixture is stirred in a light-shielded state at room temperature for 36 hr. The solvent is removed under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1). The procedure of Example 49-a) is repeated, except that the purification product prepared just above is used. Thus, 2 mg of the title compound is prepared.

reactant | Sodium iodide | 70 mg | [I-].[Na+]
reactant | propionamide bromide | 71 mg | [Br-].C(CC)(=O)N
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[2(E)-(imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 55 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1\C=C\C=1N2C(SC1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H32N4O6S2
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | (1R,5S,6S)-2-[(3S,5S)-5-[2(E)-(6-(Carbamoylethyl)imidazo[5,1-b]thiazol-3-yl)ethenyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylic acid iodide | 2 mg | C(N)(=O)CCN1CN2C(SC=C2/C=C/[C@@H]2C[C@@H](CN2)SC=2[C@@H]([C@H]3N(C2C(=O)I)C([C@@H]3[C@@H](C)O)=O)C)=C1 | C24H30IN5O4S2
